US07348017B2
Methyl 4-hydroxyphenylacetate (6.00 g, 36.11 mmol) was dissolved in acetone (72 ml), and potassium carbonate (7.49 g, 54.16 mmol) and 4-fluorobenzyl chloride (6.47 ml, 54.16 mmol) were added thereto. After being refluxed for 24 hours, the mixture, with water added thereto, was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over MgSO4, and then the solvent was evaporated out. The obtained residue was purified by silica gel column chromatography (5% ethyl acetate/hexane), to give methyl 2-{4-[(4-fluorobenzyl)oxy]phenyl}acetate (9.18 g, 93%).

reactant | Methyl 4-hydroxyphenylacetate | 36.11 mmol, 6.00 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 54.16 mmol, 7.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzyl chloride | 54.16 mmol, 6.47 ml | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | water | O | H2O
solvent | acetone | 72 ml | CC(=O)C | C3H6O
product | methyl 2-{4-[(4-fluorobenzyl)oxy]phenyl}acetate | 9.18 g, 93% | FC1=CC=C(COC2=CC=C(C=C2)CC(=O)OC)C=C1 | C16H15FO3
